US08633173B2
4-[1-(3-Bromo-phenyl)-piperidin-4-yl]-morpholine was prepared from 4-piperidin-4-yl-morpholine (0.21 g, 1.2 mmol) and 3-bromophenylboronic acid (0.50 g, 2.5 mmol) in a manner analogous to Step 49a. The reaction product was isolated as a tan resin (0.238 g, 59%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.08 (t, J=7.1 Hz, 1H), 7.03 (s, 1H), 6.92 (d, J=7.3 Hz, 1H), 6.83 (d, J=8.6 Hz, 1H), 3.75-3.68 (m, 6H), 2.79-2.70 (m, 2H), 2.60-2.55 (m, 4H), 2.37-2.28 (m, 1H), 1.97-1.89 (m, 2H), 1.68-1.56 (m, 2H). MS=325, 327 (MH)+.

reactant | 4-piperidin-4-yl-morpholine | 1.2 mmol, 0.21 g | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | 3-bromophenylboronic acid | 2.5 mmol, 0.50 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 4-[1-(3-Bromo-phenyl)-piperidin-4-yl]-morpholine | BrC=1C=C(C=CC1)N1CCC(CC1)N1CCOCC1 | C15H21BrN2O
